US06017917
To a cold (-78° C.) solution of 2,5-dichloroiodobenzene (50 g) and triisopropoxyborane (46.5 ml) in tetrahydrofuran (500 ml) was added dropwise n-butyllithium in hexane (1.69 M, 119 ml). The mixture was stirred at -78° C. for 30 minutes. The reaction mixture was poured into 2M hydrochloric acid solution (180 ml) and stirred for 10 minutes. The product was extracted with ether (200 ml) 2 times, and the organic layers were combined, washed with brine, dried over magnesium sulfate and evaporated in vacuo. To the residue was added n-hexane (60 ml) and the crystalline was collected, washed with n-hexane and dried to give 2,5-dichlorophenyl-dihydroxyborane (21.0 g).

reactant | 2,5-dichloroiodobenzene | 50 g | ClC1=C(C=C(C=C1)Cl)I | C6H3Cl2I
reactant | triisopropoxyborane | 46.5 ml | C(C)(C)OB(OC(C)C)OC(C)C | C9H21BO3
reactant | n-butyllithium | C(CCC)[Li]
reactant | hydrochloric acid | 2M, 180 ml | Cl | ClH
solvent | tetrahydrofuran | 500 ml | O1CCCC1 | C4H8O
solvent | hexane | 1.69 M, 119 ml | CCCCCC | C6H14
product | 2,5-dichlorophenyl-dihydroxyborane | 21.0 g | ClC1=C(C=C(C=C1)Cl)B(O)O | C6H5BCl2O2
